US07521461B2
a) Methyl 2-{[3-(2-oxo-2-{[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]methyl}-benzoate
(3-{[2-(Methoxycarbonyl)benzyl]oxy}phenyl)acetic acid (60 mg, 0.2 mmol) was dissolved in DCM (2 ml). 4-(Trifluoromethyl)benzylamine (42 mg, 0.24 mmol) was added, then EDC (46 mg, (0.24 mmol) was added and then DMAP (29.3 mg, 0.24 mmol) was added. The mixture was stirred at room temperature overnight. 1% Hydrochloric acid (1 ml) and water (1 ml) were added to the mixture. The two phases were separated by using a Whatman Filter Tube. The obtained organic portion was evaporated in vacuum and 82 mg solid product was left. It was then used directly in next step.

reactant | (3-{[2-(Methoxycarbonyl)benzyl]oxy}phenyl)acetic acid | 0.2 mmol, 60 mg | COC(=O)C1=C(COC=2C=C(C=CC2)CC(=O)O)C=CC=C1 | C17H16O5
reactant | 4-(Trifluoromethyl)benzylamine | 0.24 mmol, 42 mg | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | EDC
reactant | Hydrochloric acid | 1 ml | Cl | ClH
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.24 mmol, 29.3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 1 ml | O | H2O
product | Methyl 2-{[3-(2-oxo-2-{[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]methyl}-benzoate | O=C(CC=1C=C(OCC2=C(C(=O)OC)C=CC=C2)C=CC1)NCC1=CC=C(C=C1)C(F)(F)F | C25H22F3NO4
